US08084448B2
E. 3-[3-Benzyloxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-phenyl]-N-isopropyl-N-methylpropionamide
To a solution of 3-{3-benzyloxy-4-[1,1,4-trioxo-5-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-2-yl]-phenyl}-N-isopropyl-N-methylpropionamide (0.114 g, 0.2 mmol) in THF (2 mL) is added a 0.5M solution of TBAF (0.84 mL) in THF. The mixture is refluxed for 1 h, then allowed to cool to RT. To the mixture is added 1N HCl and EtOAc. The organic phase is washed with 1N HCl and sat. NaCl. The solution is dried over sodium sulfate and the solvent removed under reduced pressure to afford the title compound. This is used directly in the next step.

reactant | 3-{3-benzyloxy-4-[1,1,4-trioxo-5-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-2-yl]-phenyl}-N-isopropyl-N-methylpropionamide | 0.2 mmol, 0.114 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1N1S(N(C(C1)=O)CC[Si](C)(C)C)(=O)=O)CCC(=O)N(C)C(C)C | C27H39N3O5SSi
reactant | TBAF | 0.84 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | HCl | 1N | Cl | ClH
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 3-[3-Benzyloxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-phenyl]-N-isopropyl-N-methylpropionamide | C(C1=CC=CC=C1)OC=1C=C(C=CC1N1S(NC(C1)=O)(=O)=O)CCC(=O)N(C)C(C)C | C22H27N3O5S
